US04585772
5-Oxo-6-allyl-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline
6.9 g (0.037 mol) of 5-oxo-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline in 60 ml of absolute dimethylacetamide were added to 1.75 g (0.058 mol) of an 80% strength suspension of NaH in oil (Schuchardt), after the suspension had been thoroughly stirred twice with 20 ml of n-hexane in each case and the solvent had been decanted, and the mixture was heated to 80° C. for 1 hour. During this process, a clear solution was gradually formed. The solution was cooled, and 4.6 ml (0.053 mol) of allyl bromide were added dropwise. The mixture was then heated to 100° C. for 4 hours. It was concentrated in a rotary evaporator to one third of its volume and was poured onto ice-water. The precipitated product was filtered off under suction and was recrystallised from methanol/water.

reactant | 5-oxo-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline | 0.037 mol, 6.9 g | O=C1NC=2C=CC=CC2C=2N1CCN2 | C10H9N3O
reactant | NaH | [H-].[Na+]
reactant | n-hexane | 20 ml | CCCCCC | C6H14
reactant | allyl bromide | 0.053 mol, 4.6 ml | C(C=C)Br | C3H5Br
solvent | dimethylacetamide | 60 ml | CC(=O)N(C)C | C4H9NO
product | 5-Oxo-6-allyl-2,3,5,6-tetrahydroimidazo-[1,2-c]-quinazoline | O=C1N(C=2C=CC=CC2C=2N1CCN2)CC=C | C13H13N3O
